US08034895B2
Synthesis of 2-amino-5-[([2,2′]bithiophenyl-5-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (R=2-thiophene)
2,5-Diamino-thiophene-3,4-dicarboxylic acid diethyl ester (30 mg, 0.25 mmol) was mixed with 5-formyl-2,2′bithiophene (40 mg, 0.25 mmol) in isopropanol and refluxed for five hours following the catalytic addition of TFA. The solvent was removed and the product isolated as a yellow solid after purification by flash chromatography (42 mg, 64%). 1H-NMR (300 MHz, [D] DMSO): δ=8.19 (s, 1H), 7.89 (s, 2H), 7.58 (d, 1H, 3J=5.2 Hz), 7.50 (d, 1H, 3J=3.9 Hz) 7.41 (d, 1H, 3J=3.6 Hz), 7.34 (d, 1H, 3J=3.9 Hz), 7.11 (t, 1H, 3J=3.6 Hz), 4.25 (q, 2H, 3J=7.1 Hz), 4.12 (q, 2H, 3J=7.2 Hz), 1.31 (t, 3H, 3J=7.2 Hz), 1.19 (t, 3H, 3J=7.0 Hz). 13C-NMR (300 MHz, [D] acetone): δ=165.5, 164.8, 161.7, 146.1, 142.3, 141.9, 137.7, 137.6, 133.5, 133.4, 131.1, 129.2, 126.9, 125.8, 125.3, 61.5, 60.5, 14.8, 14.6. EI-MS: m/z 434.9 ([M]+, 96%).

reactant | 2,5-Diamino-thiophene-3,4-dicarboxylic acid diethyl ester | 0.25 mmol, 30 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N)N | C10H14N2O4S
reactant | 5-formyl-2,2′bithiophene | 0.25 mmol, 40 mg | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-amino-5-[([2,2′]bithiophenyl-5-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC1=CC=C(S1)C=1SC=CC1)N | C19H18N2O4S3
